US04489003
5 g (11 mmol) of tert.butyl (S)-11,12,13,13a-tetrahydro-8-iodo-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate, 30 g (300 mmol) of cyclohexanol and 1 g (4 mmol) of tetraethyl orthotitanate are stirred at 125° overnight, the solution is evaporated to dryness and the residue is taken up in chloroform. The solution is then stirred for 0.5 hour with 40 ml of a saturated potassium fluoride solution, the resulting emulsion is filtered over siliceous earth, the organic phase is separated, washed with water, dried over magnesium sulphate and evaporated. By crystallization from ethyl acetate there is obtained cyclohexyl (S)-11,12,13,13a-tetrahydro-8-iodo-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 181°-182°.

reactant | tert.butyl (S)-11,12,13,13a-tetrahydro-8-iodo-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 11 mmol, 5 g | IC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC(C)(C)C)CCC1)=O | C19H20IN3O3
reactant | cyclohexanol | 300 mmol, 30 g | C1(CCCCC1)O | C6H12O
catalyst | tetraethyl orthotitanate | 4 mmol, 1 g | CCO.CCO.CCO.CCO.[Ti]
product | cyclohexyl (S)-11,12,13,13a-tetrahydro-8-iodo-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | IC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC3CCCCC3)CCC1)=O | C21H22IN3O3
